US05081145
1-(4-Chlorobenzyl)-3-methyl-5-methoxy-2-(3-carboxypropyl)indole
Following the procedure of Example 2, but using 1-[(4-chlorophenyl)methyl]-1-(4-methoxyphenyl)hydrazine hydrochloride and methyl 5-oxoheptanoate as the starting materials and ethanol as the solvent, the title compound was prepared.

reactant | 1-[(4-chlorophenyl)methyl]-1-(4-methoxyphenyl)hydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)CN(N)C1=CC=C(C=C1)OC
reactant | methyl 5-oxoheptanoate | O=C(CCCC(=O)OC)CC | C8H14O3
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-Chlorobenzyl)-3-methyl-5-methoxy-2-(3-carboxypropyl)indole | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OC)C)CCCC(=O)O)C=C1 | C21H22ClNO3
